US07649002B2
A mixture of the crude dimethyl 1-benzyl-3,5-dimethyl-4-oxopiperidine-3,5-dicarboxylate (786.0 g, ca. 2.3 mol) and 1M hydrochloric acid solution (11.5 L) was refluxed for 24 hours. The reaction mixture was cooled to 10° C. and 25% wt. aqueous sodium hydroxide solution (1.92 kg) was added slowly. The mixture was extracted with dichloromethane (4×4 L), and the combined organic extracts concentrated to dryness to give the crude (3R,5S)-1-benzyl-3,5-dimethylpiperidin-4-one (475 g) as a light brown oil. The 1H NMR indicated that it was a 6:1 desired: undesired diastereomeric mixture.

reactant | dimethyl 1-benzyl-3,5-dimethyl-4-oxopiperidine-3,5-dicarboxylate | ca. 2.3 mol, 786.0 g | C(C1=CC=CC=C1)N1CC(C(C(C1)(C(=O)OC)C)=O)(C(=O)OC)C | C18H23NO5
reactant | hydrochloric acid | 1M, 11.5 L | Cl | ClH
reactant | sodium hydroxide | 1.92 kg | [OH-].[Na+]
product | (3R,5S)-1-benzyl-3,5-dimethylpiperidin-4-one | 475 g | C(C1=CC=CC=C1)N1C[C@H](C([C@H](C1)C)=O)C | C14H19NO
